US04447441
To a solution of 5-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-yl)valeramide (0.5 g.) in 6 M ammonia in ethyl alcohol (6 ml.) was added mercuric oxide (0.56 g.) over 5 minutes. The mixture was stirred for 1 hour and filtered. The filtrate was evaporated in vacuo to an oil which was dissolved in EtOAc. Addition of petroleum ether (b.p. 60°-80°) gave 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide as a crystalline solid, m.p. 128°-132°.

reactant | 5-(3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazol-1-yl)valeramide | 0.5 g | FC(CNC(NC1=NN(C=C1)CCCCC(=O)N)=S)(F)F | C11H16F3N5OS
reactant | ammonia | 6 M | N | H3N
solvent | ethyl alcohol | 6 ml | C(C)O | C2H6O
product | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide | FC(CN=C(NC1=NN(C=C1)CCCCC(=O)N)N)(F)F | C11H17F3N6O
